US04429140
A semisolid reaction mixture is obtained in the same manner as in Example 8 with the exception of using 26.8 g of sorbitol, 35.0 g of p-tolualdehyde, 0.4 g of p-toluenesulfonic acid, 85 ml of n-heptane and 200 ml of n-butanol and reacting the materials at 95° C. The mixture is similarly after-treated to give di-(p-methylbenzylidene)sorbitol in a yield of 96% with a purity of 97%.

reactant | sorbitol | 26.8 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | p-tolualdehyde | 35.0 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | p-toluenesulfonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-heptane | 85 ml | CCCCCCC | C7H16
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | di-(p-methylbenzylidene)sorbitol | yield of 96% | CC1=CC=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC=C(C=C2)C)O)O)O)O)O)C=C1 | C22H26O6
